US04054233
5-norbornen-2-ylmethyl methacrylate monomer was prepared in a flask fitted with a vertical condenser with water at 75° C circulating through the jacket, attached at the top to a downwards cold water-cooled condenser. There were refluxed for 2 hours 372 grams (3.0 moles) of 5-norbornen -2-methanol, 450 grams (4.5 moles) of methyl methacrylate, 526 grams of N,N-dimethylformamide, 28.8 grams of hydroquinone, and 8.1 grams (0.15 mole) of sodium methoxide. A total of 252 ml of distillate was collected (theoretical methanol equals 121 ml.). The flask contents were cooled, diluted with ether, and washed with water, excess dilute hydrochloric acid, water, 5% aqueous sodium hydroxide until the washes were colorless, and again with water. The ether solution was dried with anhydrous sodium sulfate, 11.5 grams of p-(p-tolylsulfonyl-amido) diphenylamine were added, and the ether was removed in a rotary evaporator at 60° C and about 15 mm pressure. To the residual oil 0.58 gram of hydroquinone was added and the product was distilled through a Vigreux column to give 431 grams of product having a boiling point of 770 C/1.4 mm, nD20 = 1.4848. The monomer was then passed through a column of activated sodium aluminum silicate.

reactant | 5-norbornen -2-methanol | 3.0 moles, 372 grams | C12C(CC(C=C1)C2)CO | C8H12O
reactant | methyl methacrylate | 4.5 moles, 450 grams | C(C(=C)C)(=O)OC | C5H8O2
reactant | hydroquinone | 28.8 grams | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sodium methoxide | 0.15 mole, 8.1 grams | C[O-].[Na+]
solvent | N,N-dimethylformamide | 526 grams | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-norbornen-2-ylmethyl methacrylate | C(C(=C)C)(=O)OCC1C2C=CC(C1)C2 | C12H16O2
